US07786132B2
N-(3-{4-(5-Chlorothiophen-2-yl)-2-[2-(5,5-dimethyl-2,4-dioxoimidazolidin-1-yl)ethylamino]pyrimidin-5-yl}phenyl)-2-(methylamino)acetamide
A solution of 15 mg (0.024 mmol) of tert-Butyl 2-(3-{4-(5-chlorothiophen-2-yl)-2-[2-(5,5-dimethyl-2,4-dioxoimidazolidin-1-yl)ethylamino]pyrimidin-5-yl}phenylamino)-2-oxoethyl(methyl)carbamate in 1 mL of 1,4-dioxane was treated with 2 mL of a 4 M solution of HCl in 1,4-dioxane and stirred 1 h at rt, then concentrated in vacuo to give the desired product as the hydrochloride salt. MS (M+H)+ 528.

reactant | tert-Butyl 2-(3-{4-(5-chlorothiophen-2-yl)-2-[2-(5,5-dimethyl-2,4-dioxoimidazolidin-1-yl)ethylamino]pyrimidin-5-yl}phenylamino)-2-oxoethyl(methyl)carbamate | 0.024 mmol, 15 mg | ClC1=CC=C(S1)C1=NC(=NC=C1C=1C=C(C=CC1)NC(CN(C(OC(C)(C)C)=O)C)=O)NCCN1C(NC(C1(C)C)=O)=O | C29H34ClN7O5S
reactant | HCl | Cl | ClH
solvent | 1,4-dioxane | 1 mL | O1CCOCC1 | C4H8O2
product | N-(3-{4-(5-Chlorothiophen-2-yl)-2-[2-(5,5-dimethyl-2,4-dioxoimidazolidin-1-yl)ethylamino]pyrimidin-5-yl}phenyl)-2-(methylamino)acetamide | ClC1=CC=C(S1)C1=NC(=NC=C1C=1C=C(C=CC1)NC(CNC)=O)NCCN1C(NC(C1(C)C)=O)=O | C24H26ClN7O3S
